* File: G2_NOR2_N1.pex.netlist.pex
* Created: Tue Feb 22 17:16:04 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_NOR2_N1_VSS 2 4 6 16 18 31 36 41 50 63 64 65 70 72 77 78 Vss
c45 78 Vss 3.75522e-19
c46 77 Vss 0.00138332f
c47 72 Vss 0.00182803f
c48 70 Vss 0.00458513f
c49 65 Vss 8.16675e-19
c50 64 Vss 6.67279e-19
c51 50 Vss 0.00453786f
c52 41 Vss 1.59376e-19
c53 36 Vss 2.48802e-19
c54 31 Vss 0.0057225f
c55 18 Vss 0.0881492f
c56 16 Vss 6.95992e-20
c57 6 Vss 0.00203096f
c58 4 Vss 0.0828873f
c59 2 Vss 0.00238035f
r60 76 77 4.16786
r61 72 76 0.655813
r62 71 78 0.494161
r63 70 77 0.652036
r64 70 71 10.1279
r65 66 78 0.128424
r66 64 78 0.494161
r67 64 65 1.70882
r68 58 65 0.652036
r69 58 63 8.46075
r70 41 72 1.82344
r71 36 50 1.16709
r72 36 66 2.16729
r73 31 63 5.54325
r74 16 50 0.238214
r75 16 18 2.04225
r76 12 18 0.0685365
r77 6 41 1.16709
r78 4 12 2.5674
r79 2 31 1.16709
.ends

.subckt PM_G2_NOR2_N1_VDD 2 4 6 8 10 27 29 46 48 49 50 54 56 59 63 64 66 72 78
+ Vss
c54 78 Vss 0.00571544f
c55 72 Vss 0.00541871f
c56 64 Vss 2.39889e-19
c57 63 Vss 4.62239e-19
c58 59 Vss 0.0132012f
c59 56 Vss 0.00216307f
c60 54 Vss 0.00111455f
c61 50 Vss 0.0117047f
c62 49 Vss 8.39672e-19
c63 48 Vss 0.00340382f
c64 46 Vss 0.00195575f
c65 37 Vss 0.12808f
c66 29 Vss 7.35265e-20
c67 27 Vss 0.0346129f
c68 26 Vss 0.10055f
c69 10 Vss 0.0832156f
c70 8 Vss 0.0823812f
c71 6 Vss 0.00225357f
c72 4 Vss 0.084156f
c73 2 Vss 0.0839251f
r74 72 75 0.05
r75 61 75 1.16709
r76 61 63 0.52524
r77 59 66 0.326018
r78 58 59 16.1713
r79 57 64 0.494161
r80 56 66 0.326018
r81 56 57 4.33457
r82 54 78 1.16709
r83 52 64 0.128424
r84 52 54 2.16729
r85 50 58 0.652036
r86 50 63 10.1279
r87 48 64 0.494161
r88 48 49 7.50214
r89 44 49 0.652036
r90 44 46 4.83471
r91 36 72 0.262036
r92 36 37 2.26917
r93 33 36 2.26917
r94 29 78 0.238214
r95 27 29 1.5171
r96 26 30 0.652036
r97 26 29 1.4004
r98 23 27 0.652036
r99 20 37 0.00605528
r100 17 33 0.00605528
r101 10 30 2.5674
r102 8 23 2.5674
r103 6 46 1.16709
r104 4 17 2.5674
r105 2 20 2.5674
.ends

.subckt PM_G2_NOR2_N1_B 2 4 10 13 18 21 26 31 Vss
c23 31 Vss 0.0018839f
c24 26 Vss 0.00377036f
c25 18 Vss 0.00166419f
c26 13 Vss 0.057478f
c27 10 Vss 6.98747e-20
c28 2 Vss 0.0578461f
r29 23 31 1.16709
r30 21 23 2.20896
r31 18 26 1.16709
r32 18 21 2.62575
r33 13 31 0.50025
r34 10 26 0.50025
r35 4 13 1.80885
r36 2 10 1.80885
.ends

.subckt PM_G2_NOR2_N1_Z 2 4 25 28 Vss
c24 25 Vss 0.00188712f
c25 4 Vss 0.00148239f
c26 2 Vss 0.00227101f
r27 28 30 3.12589
r28 25 28 6.04339
r29 4 30 1.16709
r30 2 25 1.16709
.ends

.subckt PM_G2_NOR2_N1_A 2 4 10 11 14 20 Vss
c22 20 Vss 7.35265e-20
c23 14 Vss 0.116576f
c24 11 Vss 0.0357184f
c25 10 Vss 0.270425f
c26 2 Vss 0.146051f
r27 20 26 1.16709
r28 14 26 0.05
r29 12 14 1.6338
r30 10 12 0.652036
r31 10 11 8.92755
r32 7 11 0.652036
r33 4 14 3.0342
r34 2 7 4.668
.ends

