* File: G2_NOR2_N1.pex.netlist.pex
* Created: Mon Feb 28 09:28:35 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_NOR2_N1_VSS 2 4 6 16 18 31 36 41 50 61 62 66 67 72 79 80 Vss
c43 80 Vss 3.75522e-19
c44 79 Vss 0.00223955f
c45 74 Vss 0.00269784f
c46 72 Vss 0.00694708f
c47 67 Vss 8.20725e-19
c48 66 Vss 0.00177669f
c49 62 Vss 6.45375e-19
c50 61 Vss 0.00385292f
c51 50 Vss 0.00491203f
c52 41 Vss 7.10513e-22
c53 36 Vss 9.27479e-19
c54 31 Vss 0.00114656f
c55 18 Vss 0.0881492f
c56 16 Vss 6.95992e-20
c57 6 Vss 0.00202759f
c58 4 Vss 0.0834348f
c59 2 Vss 0.00226843f
r60 78 79 4.16786
r61 74 78 0.655813
r62 73 80 0.494161
r63 72 79 0.652036
r64 72 73 10.1279
r65 68 80 0.128424
r66 66 80 0.494161
r67 66 67 4.37625
r68 59 67 0.652036
r69 59 61 8.46075
r70 58 62 0.655813
r71 58 61 4.87639
r72 41 74 1.82344
r73 36 50 1.16709
r74 36 68 2.16729
r75 31 62 1.82344
r76 16 50 0.238214
r77 16 18 2.04225
r78 12 18 0.0685365
r79 6 41 1.16709
r80 4 12 2.5674
r81 2 31 1.16709
.ends

.subckt PM_G2_NOR2_N1_VDD 2 4 6 8 10 27 29 45 47 48 52 54 55 57 60 64 66 72 78
+ Vss
c51 78 Vss 0.0058262f
c52 72 Vss 0.00492692f
c53 66 Vss 3.56526e-19
c54 64 Vss 9.96234e-19
c55 60 Vss 0.00134431f
c56 55 Vss 8.63545e-19
c57 54 Vss 0.0060792f
c58 52 Vss 0.0016605f
c59 49 Vss 0.00173366f
c60 48 Vss 0.00489508f
c61 47 Vss 0.00194735f
c62 45 Vss 0.00746951f
c63 37 Vss 0.127438f
c64 29 Vss 7.35265e-20
c65 27 Vss 0.0346129f
c66 26 Vss 0.101192f
c67 10 Vss 0.0842957f
c68 8 Vss 0.0823812f
c69 6 Vss 0.00220559f
c70 4 Vss 0.0830779f
c71 2 Vss 0.0842392f
r72 72 75 0.05
r73 64 78 1.16709
r74 62 64 2.16729
r75 60 75 1.16709
r76 58 60 2.20896
r77 55 57 9.04425
r78 54 62 0.652036
r79 54 57 1.12532
r80 50 66 0.0828784
r81 50 52 1.82344
r82 48 58 0.652036
r83 48 49 4.37625
r84 47 55 0.652036
r85 46 66 0.551426
r86 46 47 4.16786
r87 45 66 0.551426
r88 44 49 0.652036
r89 44 45 13.3371
r90 36 72 0.262036
r91 36 37 2.26917
r92 33 36 2.26917
r93 29 78 0.238214
r94 27 29 1.5171
r95 26 30 0.652036
r96 26 29 1.4004
r97 23 27 0.652036
r98 20 37 0.00605528
r99 17 33 0.00605528
r100 10 30 2.5674
r101 8 23 2.5674
r102 6 52 1.16709
r103 4 17 2.5674
r104 2 20 2.5674
.ends

.subckt PM_G2_NOR2_N1_B 2 4 10 13 18 21 26 31 Vss
c25 31 Vss 0.00183593f
c26 26 Vss 0.00362926f
c27 18 Vss 9.68961e-19
c28 13 Vss 0.057478f
c29 10 Vss 6.74849e-20
c30 2 Vss 0.0576626f
r31 23 31 1.16709
r32 21 23 2.20896
r33 18 26 1.16709
r34 18 21 2.62575
r35 13 31 0.50025
r36 10 26 0.50025
r37 4 13 1.80885
r38 2 10 1.80885
.ends

.subckt PM_G2_NOR2_N1_Z 2 4 25 28 Vss
c21 25 Vss 0.00301088f
c22 4 Vss 0.00148239f
c23 2 Vss 0.0021264f
r24 28 30 3.12589
r25 25 28 6.04339
r26 4 30 1.16709
r27 2 25 1.16709
.ends

.subckt PM_G2_NOR2_N1_A 2 4 10 11 14 20 Vss
c18 20 Vss 2.48297e-19
c19 14 Vss 0.116468f
c20 11 Vss 0.0348164f
c21 10 Vss 0.273262f
c22 2 Vss 0.14291f
r23 20 26 1.16709
r24 14 26 0.05
r25 12 14 1.6338
r26 10 12 0.652036
r27 10 11 8.92755
r28 7 11 0.652036
r29 4 14 3.0342
r30 2 7 4.668
.ends

